US07057042B2
2-{4-[(5-chloro-1-benzothien-3-yl)methyl]-1-piperazinyl}pyrimidine
3-(Bromomethyl)-5-chloro-1-benzothiophene and 2-(1-piperazinyl)pyrimidine were processed as described in Example 2 to provide the title compound. 1H NMR (CDCl3, 300 MHz) δ (2.62–2.9 (m, 4H), 3.75 (m, 6H), 6.6 (m, 1H), 7.38 (m, 2H), 7.85 (m, 2H), 8.31 (M, 2H). MS (DCI/NH3) m/z 345.0 (M+H)+; Anal. Calcd for C17H17ClN4S: C, 53.04; H, 4.74; N, 14.55. Found: C, 52.79; H, 4.41; N, 14.55.

reactant | 3-(Bromomethyl)-5-chloro-1-benzothiophene | BrCC1=CSC2=C1C=C(C=C2)Cl | C9H6BrClS
reactant | 2-(1-piperazinyl)pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
product | 2-{4-[(5-chloro-1-benzothien-3-yl)methyl]-1-piperazinyl}pyrimidine | ClC=1C=CC2=C(C(=CS2)CN2CCN(CC2)C2=NC=CC=N2)C1 | C17H17ClN4S
